US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-Formyl-2,5-dimethylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
To a stirred solution of biphenyl-2-ylcarbamic acid 1-(2-{[4-(4-hydroxymethyl-2,5-dimethylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl ester (0.460 g, 0.748 mmol) and dimethyl sulfoxide (0.531 mL, 7.48 mmol) in DCM (2.58 mL) at 0° C. was added N,N-diisopropylethylamine (0.65 mL, 3.7 mmol). Sulfur trioxide-pyridine complex (0.357 g, 2.24 mmol) was added and the resulting mixture was stirred at 0° C. for 1 h. Water (3 mL) was added and the layers were separated. The organic layer was dried over sodium sulfate and filtered to give the title compound in a DCM solution, which was used immediately in the next reaction.

reactant | biphenyl-2-ylcarbamic acid 1-(2-{[4-(4-hydroxymethyl-2,5-dimethylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl ester | 0.748 mmol, 0.460 g | OCC1=CC(=C(C=C1C)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C | C36H46N4O5
reactant | dimethyl sulfoxide | 7.48 mmol, 0.531 mL | CS(=O)C | C2H6OS
reactant | N,N-diisopropylethylamine | 3.7 mmol, 0.65 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | 3 mL | O | H2O
solvent | DCM | 2.58 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-Formyl-2,5-dimethylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | C(=O)C1=CC(=C(C=C1C)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C | C36H44N4O5
